US08895733B2
Intermediate 199: tert-Butyl 4-[(cyclopropylmethoxy)methyl]piperidine-1-carboxylate
A solution of N-boc-4-piperidinemethanol (0.500 g, 2.322 mmol) in DMF (10 mL) was added drop wise to a suspension of sodium hydride (60% in mineral oil) (0.186 g, 4.645 mmol) in dry DMF (15 mL) at 0 C. The mixture was stirred at 0 C for 15 minutes and room temperature for 10 minutes before being cooled down again and (bromomethyl)cyclopropane (0.227 mL, 2.322 mmol) was added drop wise. The reaction mixture was stirred at 0 C for 10 minutes, room temperature for 1 h and 80 C for 4 h. The reaction mixture was diluted with EtOAc (60 mL) and washed with water (3×20 mL). The aqueous washes were combined and re-extracted with EtOAc (3×20 mL). The organic extracts were combined, dried over sodium sulfate, filtered and evaporated to provide the title compound as a colorless oil (0.614 g, 98%). Method B HPLC-MS: MH+ requires m/z=270 Found: m/z=214 (MH+-tBu), Rt=2.33 min (83%).

reactant | N-boc-4-piperidinemethanol | 2.322 mmol, 0.500 g | C(=O)(OC(C)(C)C)N1CCC(CC1)CO | C11H21NO3
reactant | sodium hydride | 4.645 mmol, 0.186 g | [H-].[Na+]
reactant | (bromomethyl)cyclopropane | 2.322 mmol, 0.227 mL | BrCC1CC1 | C4H7Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl 4-[(cyclopropylmethoxy)methyl]piperidine-1-carboxylate | 0.614 g, 98% | C1(CC1)COCC1CCN(CC1)C(=O)OC(C)(C)C | C15H27NO3
